### PR TITLE
[Merged by Bors] - feat: two lemmas about cut-off functions

### PR DESCRIPTION
**Pull request by grunweg**
From sphere-eversion; I'm just upstreaming this.

The version in sphere-eversion uses an unbundled design; we provide a bundled version (for now) to match the remaining file.

-------

- [x] depends on: #9874 to avoid merge conflicts
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/PartitionOfUnity.lean [hunk 1]
```diff
@@ -495,6 +495,35 @@ theorem exists_smooth_zero_one_of_isClosed [T2Space M] [SigmaCompactSpace M] {s
...
+  · exact eventually_of_mem (mem_of_superset (u_op.mem_nhdsSet.mpr hsu) subset_closure) hfu
+  · exact eventually_of_mem (mem_of_superset (v_op.mem_nhdsSet.mpr htv) subset_closure) hfv
+
+/-- Given two sets `s,t` in a Hausdorff normal σ-compact finite-dimensional manifold `M`
+with `s` open and `s ⊆ interior t`, there is a smooth function `f : M → [0,1]` which is equal to `s`
+in a neighbourhood of `s` and has support contained in `t`. -/
+theorem exists_smooth_one_nhds_of_interior [T2Space M] [NormalSpace M] [SigmaCompactSpace M]
+    {s t : Set M} (hs : IsClosed s) (hd : s ⊆ interior t) :
+    ∃ f : C^∞⟮I, M; 𝓘(ℝ), ℝ⟯, (∀ᶠ x in 𝓝ˢ s, f x = 1) ∧ (∀ x, x ∉ t → f x = 0) ∧
+      ∀ x, f x ∈ Icc (0 : ℝ) 1 := by
```
Comment (Parcly-Taxel) [inline Mathlib/Geometry/Manifold/PartitionOfUnity.lean:521]:
```suggestion
    ∃ f : C^∞⟮I, M; 𝓘(ℝ), ℝ⟯, (∀ᶠ x in 𝓝ˢ s, f x = 1) ∧ (∀ x ∉ t, f x = 0) ∧
      ∀ x, f x ∈ Icc 0 1 := by
```

File: Mathlib/Geometry/Manifold/PartitionOfUnity.lean [hunk 2]
```diff
@@ -495,6 +495,35 @@ theorem exists_smooth_zero_one_of_isClosed [T2Space M] [SigmaCompactSpace M] {s
   exact nmem_support.1 (subset_compl_comm.1 (hf.support_subset i) hx)
 #align exists_smooth_zero_one_of_closed exists_smooth_zero_one_of_isClosed
 
+/-- Given two disjoint closed sets `s, t` in a Hausdorff normal σ-compact finite dimensional
+manifold `M`, there exists a smooth function `f : M → [0,1]` that vanishes in a neighbourhood of `s`
+and is equal to `1` in a neighbourhood of `t`. -/
+theorem exists_smooth_zero_one_nhds_of_isClosed [T2Space M] [NormalSpace M] [SigmaCompactSpace M]
+    {s t : Set M} (hs : IsClosed s) (ht : IsClosed t) (hd : Disjoint s t) :
+    ∃ f : C^∞⟮I, M; 𝓘(ℝ), ℝ⟯, (∀ᶠ x in 𝓝ˢ s, f x = 0) ∧ (∀ᶠ x in 𝓝ˢ t, f x = 1) ∧
+      ∀ x, f x ∈ Icc (0 : ℝ) 1 := by
```
Comment (Parcly-Taxel) [inline Mathlib/Geometry/Manifold/PartitionOfUnity.lean:504]:
```suggestion
      ∀ x, f x ∈ Icc 0 1 := by
```

**Review by Parcly-Taxel — APPROVED** [review]
LGTM

**Comment by grunweg** [comment]
Updated, and made the same change in one more lemma in this file.
awaiting-review

File: Mathlib/Geometry/Manifold/PartitionOfUnity.lean [hunk 3]
```diff
@@ -495,6 +495,35 @@ theorem exists_smooth_zero_one_of_isClosed [T2Space M] [SigmaCompactSpace M] {s
...
+  obtain ⟨f, hfu, hfv, hf⟩ := exists_smooth_zero_one_of_isClosed I isClosed_closure isClosed_closure
+    (subset_compl_iff_disjoint_left.mp hvu)
+  refine ⟨f, ?_, ?_, hf⟩
+  · exact eventually_of_mem (mem_of_superset (u_op.mem_nhdsSet.mpr hsu) subset_closure) hfu
+  · exact eventually_of_mem (mem_of_superset (v_op.mem_nhdsSet.mpr htv) subset_closure) hfv
+
+/-- Given two sets `s, t` in a Hausdorff normal σ-compact finite-dimensional manifold `M`
+with `s` open and `s ⊆ interior t`, there is a smooth function `f : M → [0,1]` which is equal to `s`
+in a neighbourhood of `s` and has support contained in `t`. -/
+theorem exists_smooth_one_nhds_of_interior [T2Space M] [NormalSpace M] [SigmaCompactSpace M]
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/PartitionOfUnity.lean:518]:
```suggestion
theorem exists_smooth_one_nhds_of_subset_interior [T2Space M] [NormalSpace M] [SigmaCompactSpace M]
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

**Comment by grunweg** [comment]
Thank you for the review.
bors r+
